US06040115
Methallyl chloride (0.85 M) was added to a solution of potassium t-butoxide (0.89 M) and furfuryl alcohol (0.89 M) in dimethyl sulfoxide (0.5 L). The exothermic reaction (~95° C.) was allowed to cool to room temperature over 2 hr and then added to 1.5 L water and extracted with 0.5 L ether. Crude product (125 g) was isolated from the ether phase and distilled at ~20 mm at 127° C. to yield 110 g (0.72 M) of methallyl 2-methylfurfuryl ether. Hydrosilylation of the methallyl group was accomplished by mixing with 0.93 M of dichloromethylsilane, 0.2 g of SIP6831.0 in xylene and heating to a gentle reflux. The reaction proceeded to completion with a brief vigorous reflux.

reactant | Methallyl chloride | 0.85 M | C(C(C)=C)Cl | C4H7Cl
reactant | potassium t-butoxide | 0.89 M | CC(C)([O-])C.[K+]
reactant | furfuryl alcohol | 0.89 M | C(C1=CC=CO1)O | C5H6O2
reactant | water | 1.5 L | O | H2O
solvent | dimethyl sulfoxide | 0.5 L | CS(=O)C | C2H6OS
product | methallyl 2-methylfurfuryl ether | 0.72 M, 110 g | CC1(COCC(C)=C)CC=CO1 | C10H16O2
